US05663200
5b) p-(2-Phenylethyl)benzyl alcohol
Hydrogenating 10 g (48 mmol) of 4-stilbenemethanol (Aldrich; Milwankee/U.S.A.) in 100 ml of THF, in the presence of 0.5 g of 5% Pd/C under low pressure and at RT, filtering through ®Celite (filtering aid based on kieselguhr, Johns-Manville Corp., obtainable from Fluka, Buchs, Switzerland) and evaporating the filtrate affords the title compound, approximately 15% of which, according to the 1H-NMR spectrum, consists of p-(2-phenylethyl)toluene: TLC Rf (A)=0.62; 1H-NMR (200 MHz, CDCl3): 2.92 (s, 4H), 4.68 (s, 2H), 7.15-7.35 (m, 9H).

reactant | 4-stilbenemethanol | 48 mmol, 10 g | C1(=CC=C(C=C1)CO)C=CC1=CC=CC=C1 | C15H14O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | p-(2-Phenylethyl)benzyl alcohol | C1(=CC=CC=C1)CCC1=CC=C(CO)C=C1 | C15H16O
